2199-03-15 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient tolerated heliox well yesterday.  On BiPAP overnight, did well.
   Per IP, plan to leave on BIPAP and  bronch [**2199-3-15**] in the MICU.
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: No changes
   Flowsheet Data as of  [**2199-3-15**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.8
   HR: 75 (64 - 105) bpm
   BP: 105/74(81) {103/51(64) - 150/89(100)} mmHg
   RR: 23 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,202 mL
                                                                    150 mL
   Urine:
                                                                  1,202 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,202 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 97%
   ABG: 7.39/46/75//1
   PaO2 / FiO2: 125
   Physical Examination
   GEN: Patient comfortable, and in no respiratory distress
   HEENT: Face mask in place; MMM.
   Pulm: diffuse expiratory rhonchi bilaterally.  Expiratory wheezes over
   anterior trachea.
   CVS: RRR with normal S1 + S2, no m/g/r.
   Abd: Obese, soft/nt/d
   Ext: no c/c/e.
   Labs / Radiology
   154 K/uL
   10.7 g/dL
   112 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.0 mEq/L
   21 mg/dL
   104 mEq/L
   141 mEq/L
   32.3 %
   4.2 K/uL
        [image002.jpg]
                             [**2199-3-14**]  05:05 AM
                             [**2199-3-14**]  12:26 PM
                             [**2199-3-15**]  03:30 AM
   WBC
   4.4
   4.2
   Hct
   33.2
   32.3
   Plt
   165
   154
   Cr
   0.7
   TCO2
   29
   Glucose
   175
   Other labs: PT / PTT / INR:12.1/23.0/1.0, Lactic Acid:1.6 mmol/L,
   Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
[**2199-3-15**]: Urine Culture from [**2199-3-13**] URINE CULTURE (Preliminary):
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML..
         PRESUMPTIVE IDENTIFICATION.
   Assessment and Plan
   55F TBM s/p Y-stent and hx of COPD p/w acute onset of barking cough,
   treated for anaphylaxis / stridor at OSH and transferred to [**Hospital1 19**] for
   further management.
   # Dyspnea/Respiratory Distress: Unclear what the trigger of this event
   is, could be allergy, but no skin findings, could be secondary to
   pneumonia given possible consolidation seen on cxr, although this may
   have been soft tissue shadowing. Other possibilities include migration
   of Y stent, vocal cord dysfunction (given deepening voice), diastolic
   CHF exacerbation (given evidence of LVH on old ECHO). Dyspnea may also
   be due to bronchospasm [**1-15**] to mucomyst nebs.
   - Bipap for now; per plan with IP will maintain on bipap until bedside
   bronchoscopy today.
   - Albuterol Ipratropium nebs ATC
   - Tessalon and guaifenesin for cough
   - Consider benadryl and steroids if evidence of stridor
   - Continue home fexofenadine
   - Hold mucomyst nebs for now
   .
   # UTI: Urine culture from ED growing > 100k E. Coli. Patient has been
   afebrile and without flank pain so pyelonephritis is not suspected.
   - Start patient on Ciprofloxacin 400mg IV BID with 3 day course
   planned.
   - Convert to PO cipro when patient is no longer NPO
   - repeat UA
   .
   # Htn: Continue home amlodipine, metoprolol and clonidine.
   .
   # GERD: Continue home omeprazole.
   .
   # LE Edema: Continue home lasix.
   .
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-3-15**] 05:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-03-16 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient with bedside bronchoscopy by IP - stent noted to be in correct
   position.  Laryngoscopy performed by ENT who noted no paradoxical
   movement of vocal cords, only minor edema of the posterior cricoid.
   Overnight, developed n/v x 1, improved with zofran.
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2199-3-15**] 08:30 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2199-3-15**] 08:00 AM
   Fentanyl - [**2199-3-15**] 09:50 AM
   Midazolam (Versed) - [**2199-3-15**] 09:50 AM
   Heparin Sodium (Prophylaxis) - [**2199-3-16**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unchanged.
   Flowsheet Data as of  [**2199-3-16**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 90 (67 - 101) bpm
   BP: 156/95(104) {91/56(66) - 159/95(112)} mmHg
   RR: 20 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.5 kg (admission): 118.4 kg
                  Total In:
                                                                  1,730 mL
                  PO:
                                                                    520 mL
                  TF:
   IVF:
                                                                  1,210 mL
   Blood products:
   Total out:
                                                                    780 mL
                                                                    820 mL
   Urine:
                                                                    780 mL
                                                                    670 mL
   NG:
   150 mL
   Stool:
   Drains:
   Balance:
                                                                    950 mL
                                                                   -820 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   GEN: Patient comfortable, and in no respiratory distress
   HEENT: Face mask in place; MMM.
   Pulm: diffuse expiratory rhonchi bilaterally.  Expiratory wheezes over
   anterior trachea.
   CVS: RRR with normal S1 + S2, no m/g/r.
   Abd: Obese, soft/nt.  Minimal distension.
   Ext: no c/c/e.
   Neuro: A+O x 4
   Labs / Radiology
   170 K/uL
   11.5 g/dL
   130 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.8 mEq/L
   12 mg/dL
   101 mEq/L
   138 mEq/L
   33.4 %
   4.2 K/uL
        [image002.jpg]
                             [**2199-3-14**]  05:05 AM
                             [**2199-3-14**]  12:26 PM
                             [**2199-3-15**]  03:30 AM
                             [**2199-3-16**]  05:00 AM
   WBC
   4.4
   4.2
   4.2
   Hct
   33.2
   32.3
   33.4
   Plt
   165
   154
   170
   Cr
   0.7
   0.7
   0.6
   TCO2
   29
   Glucose
   175
   112
   130
   Other labs: PT / PTT / INR:11.6/23.1/1.0, Lactic Acid:1.6 mmol/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   55F TBM s/p Y-stent and hx of COPD p/w acute onset of barking cough,
   treated for anaphylaxis / stridor at OSH and transferred to [**Hospital1 19**] for
   further management.
   # Dyspnea/Respiratory Distress: Unclear what the trigger of this event
   is, could be allergy, but no skin findings, could be secondary to
   pneumonia given possible consolidation seen on cxr, although this may
   have been soft tissue shadowing. Other possibilities include migration
   of Y stent, vocal cord dysfunction (given deepening voice), diastolic
   CHF exacerbation (given evidence of LVH on old ECHO). Dyspnea may also
   be due to bronchospasm [**1-15**] to mucomyst nebs.
   -Continue patients home CPAP settings at night..
   - Albuterol Ipratropium nebs ATC
   - Tessalon and guaifenesin for cough
   - Consider benadryl and steroids if evidence of stridor
   - Continue home fexofenadine
   - Hold mucomyst nebs for now
   - IP with bronch that did not show evidence of stent migration or
   occlusion.
   - ENT eval with no evidence of PVCM, only minimal posterior cricoid
   edema.
   - BIPAP at night and during day PRN for SOB (will try to control nausea
   first to make BIPAP more tolerable)
   .
   # UTI: Urine culture from ED growing > 100k E. Coli now with
   sensitivities complete (sensitive to ciprofloxacin). Patient has been
   afebrile and without flank pain so pyelonephritis is not suspected.
   Repeat U/A on [**2199-3-15**] showed 19 WBCs consistent with UTI.
   - continue patient on Ciprofloxacin 400mg PO BID with 3 day course
   planned.
   # N/V
   - Continue zofran prn
   - Add compazine PRN
   - if patient spikes fever or if abdominal distension worsens, would
   obtain CT abd/pelvis with IV contrast.
   # Htn: Continue home amlodipine, metoprolol and clonidine.
   .
   # GERD: While GERD may be contributing to symptoms, will increase
   Prilosec to 40mg PO BID.
   .
   # LE Edema: Continue home lasix.
   .
   # FEN: No IVF, replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU for morning, likely call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-3-15**] 05:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2199-03-17 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**3-15**]: Patient with bedside bronchoscopy by IP - stent noted to be in
   correct position.  Laryngoscopy performed by ENT who noted no
   paradoxical movement of vocal cords, only minor edema of the posterior
   arytenoids. Overnight, developed n/v x 1, improved with zofran.
   ENT recs:
   -Start PPI at double dose [**Hospital1 7**] to be given 1/2 hour prior to meals on an
   empty stomach, if not already maximizing reflux management.
   -Strict aspiration and reflux precautions until cleared by Speech and
   Swallow.
-If O2 is required, use humidified shovel mask.
   -f/u with home ENT or in [**Hospital 19**] [**Hospital **] clinic in [**2-14**] weeks
   [**3-16**]:
   - Felt nauseated most of day and very little PO intake; nausea
   increased with codeine (last dose overnight); now feels well since
   stopping codeine
   - S&S consult not done; diet changed to clears for now
   - Pt complained of heartburn; given Maalox
   - Pt with two loose stools; C diff sent
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2199-3-15**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-3-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-3-17**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 66 (63 - 93) bpm
   BP: 114/98(102) {108/47(68) - 168/109(119)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.5 kg (admission): 118.4 kg
                  Total In:
                                                                    560 mL
                  PO:
                                                                    560 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                    150 mL
   Urine:
                                                                  1,110 mL
                                                                    150 mL
   NG:
                                                                    220 mL
   Stool:
   Drains:
   Balance:
                                                                   -770 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula at 4 lpm
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN: Patient comfortable, and in no respiratory distress
   HEENT: NC in place; MMM.
   Pulm: diffuse expiratory rhonchi bilaterally.  Expiratory wheezes
   diffusely.
   CVS: RRR with normal S1 + S2, no m/g/r.
   Abd: Obese, soft/nt, non-distended
   Ext: no c/c/e; DP 2+ bilaterally.
   Neuro: A+O x 4
   Labs / Radiology
   170 K/uL
   11.5 g/dL
   130 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.8 mEq/L
   12 mg/dL
   101 mEq/L
   138 mEq/L
   33.4 %
   4.2 K/uL
        [image002.jpg]
                             [**2199-3-14**]  05:05 AM
                             [**2199-3-14**]  12:26 PM
                             [**2199-3-15**]  03:30 AM
                             [**2199-3-16**]  05:00 AM
   WBC
   4.4
   4.2
   4.2
   Hct
   33.2
   32.3
   33.4
   Plt
   165
   154
   170
   Cr
   0.7
   0.7
   0.6
   TCO2
   29
   Glucose
   175
   112
   130
   Other labs: PT / PTT / INR:11.6/23.1/1.0, Lactic Acid:1.6 mmol/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Micro: [**3-13**] urine w/E Coli >100K
   C. Diff pending
   Imaging: [**3-16**] CXR Linear atelectasis in the left retrocardiac region is
   unchanged since the  previous study one day prior. No newly developed
   areas of consolidation, pneumothorax, or pleural effusion.
   Cardiomediastinal silhouette is normal.
   Assessment and Plan
   55F TBM s/p Y-stent and hx of COPD p/w acute onset of barking cough,
   treated for anaphylaxis / stridor at OSH and transferred to [**Hospital1 19**] for
   further management.
   # Dyspnea/Respiratory Distress: Unclear what the trigger of this event
   is, could be URI, allergy (but no skin findings), pneumonia given
   possible consolidation seen on cxr (although this may have been soft
   tissue shadowing), migration of Y stent (unlikely given normal bronch),
   vocal cord dysfunction (given deepening voice, but ruled out by ENT
   laryngoscopy), diastolic CHF exacerbation (given evidence of LVH on old
   ECHO, edema), bronchospasm [**1-15**] to mucomyst nebs.
   - Albuterol Ipratropium nebs ATC
   - Tessalon and guaifenesin for cough
   - Consider benadryl and steroids if evidence of stridor
   - Continue home fexofenadine
   - Hold mucomyst nebs for now
   - IP with bronch that did not show evidence of stent migration or
   occlusion; f/u IP recs
   - ENT eval with no evidence of PVCM, only minimal posterior cricoid
   edema; double dose PPI [**Hospital1 **] per ent recs
   - BIPAP at night and during day PRN for SOB (will try to control nausea
   first to make BIPAP more tolerable)
   - Await S&S study (likely Monday)
   .
   # UTI: Urine culture from ED growing > 100k E. Coli now with
   sensitivities complete (sensitive to ciprofloxacin). Patient has been
   afebrile and without flank pain so pyelonephritis is not suspected.
   Repeat U/A on [**2199-3-15**] showed 19 WBCs consistent with UTI.
   - continue patient on Ciprofloxacin 400mg PO BID with 3 day course
   planned, day 1 = [**3-15**]
   # N/V/loose stools. Resolved since stopped codeine (also had two loose
   BMs after feeling constipated all day, so may have been partly due to
   abdominal fullness); will continue to monitor.
   - Continue zofran, compazine prn
   - if patient spikes fever or if abdominal distension worsens, would
   obtain CT abd/pelvis with IV contrast.
   - C diff sent
   # Htn: Continue home amlodipine, metoprolol and clonidine.
   .
   # GERD: GERD may be contributing to symptoms, will increase Prilosec to
   40mg PO BID per ENT recs.
   .
   # LE Edema: Continue home lasix. (LOS balance -1.2 L)
   .
   # FEN: No IVF, replete electrolytes, advance diet as tolerated
   # Prophylaxis: Subcutaneous heparin
   # Access: peripheral X1
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU for morning, possible call out to floor pending
   further improvement and no increased need for BIPAP

2199-03-18 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: cough
   24 Hour Events:
   [**2199-3-17**]:
   - Pt with continued loose stools during day - checking C. Diff.
   - C Diff negative X 1; pt without continued loose stools o/n.
   - No nausea today
   - IP no new recs, will see on [**Name (NI) 1088**]
   - Pt noted to have low UOP overnight, only 100 cc's  voiding every few
   hours. Nurse reported holding off on giving pt water and full liquids
   due to S&S study today; water given under nurse's supervision (pt
   thirsty); will follow UOP.
   - On BIPAP until ~1AM but did not tolerate any further due to cough
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2199-3-15**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-3-17**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-3-18**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**00**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 64 (63 - 84) bpm
   BP: 123/80(90) {98/45(58) - 149/101(105)} mmHg
   RR: 16 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.5 kg (admission): 118.4 kg
                  Total In:
                                                                    540 mL
                  PO:
                                                                    540 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    600 mL
                                                                    100 mL
   Urine:
                                                                    350 mL
                                                                    100 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                    -60 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Gen: NAD, thirsty
   HEENT: mm a bit dry, sclera anicteric
   CV: RRR w/o mrg
   Pulm: rhonchorous expiratory sounds throughout (transmitted from upper
   airways), occasional expiratory wheezes throughout
   Ab: soft, NT though with minimal
gas-like, not sharp
 tenderness in
   LUQ, ND, BS+, midline nontender mass 3 cm diameter palpated at superior
   portion of abdominal scar
   Extrem: DP 2+ bilaterally, no LE edema
   Neuro: aox3
   Labs / Radiology
   167 K/uL
   11.8 g/dL
   109 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.4 mEq/L
   11 mg/dL
   100 mEq/L
   139 mEq/L
   36.5 %
   4.5 K/uL
        [image002.jpg]
                             [**2199-3-14**]  05:05 AM
                             [**2199-3-14**]  12:26 PM
                             [**2199-3-15**]  03:30 AM
                             [**2199-3-16**]  05:00 AM
                             [**2199-3-17**]  08:30 AM
                             [**2199-3-18**]  06:02 AM
   WBC
   4.4
   4.2
   4.2
   4.4
   4.5
   Hct
   33.2
   32.3
   33.4
   32.5
   36.5
   Plt
   165
   154
   170
   149
   167
   Cr
   0.7
   0.7
   0.6
   0.7
   0.7
   TCO2
   29
   Glucose
   175
   112
   130
   109
   109
   Other labs: PT / PTT / INR:11.6/23.1/1.0, Differential-Neuts:74.8 %,
   Lymph:17.0 %, Mono:6.3 %, Eos:1.6 %, Lactic Acid:1.6 mmol/L, Ca++:9.2
   mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   [**3-17**] C Diff negative (stool)
   Assessment and Plan
   55F TBM s/p Y-stent and hx of COPD p/w acute onset of barking cough,
   treated for anaphylaxis / stridor at OSH and transferred to [**Hospital1 19**] for
   further management.
   # Dyspnea/Respiratory Distress: Unclear what the trigger of this event
   is, could be bronchitis, allergy (but no skin findings), pneumonia
   given possible consolidation seen on cxr (although this may have been
   soft tissue shadowing), migration of Y stent (unlikely given normal
   bronch), vocal cord dysfunction (given deepening voice, but ruled out
   by ENT laryngoscopy), diastolic CHF exacerbation (given evidence of LVH
   on old ECHO, edema), bronchospasm [**1-15**] to mucomyst nebs.
   - Albuterol Ipratropium nebs ATC
   - CXR today
   - Tessalon and guaifenesin for cough
   - Consider benadryl and steroids if evidence of stridor
   - Continue home fexofenadine
   - Hold mucomyst nebs for now
   - IP with bronch that did not show evidence of stent migration or
   occlusion; f/u IP recs; contact Dr [**Name (NI) 2249**] to find out if he visualized
   distal airways. Pt may need at least a trial of stent removal if she
   does not improve with conservative management after her acute
   bronchitis resolves.
   - ENT eval with no evidence of PVCM, only minimal posterior cricoid
   edema; double dose PPI [**Hospital1 **] per ent recs
   - BIPAP at night and during day PRN for SOB (will try to control nausea
   first to make BIPAP more tolerable)
   - Await S&S study (likely [**Hospital1 1088**])
   .
   # UTI: Urine culture from ED growing > 100k E. Coli sensitive to
   ciprofloxacin. Patient has been afebrile and without flank pain so
   pyelonephritis is not suspected.  U/A on [**2199-3-15**] showed 19 WBCs
   consistent with UTI.
   - 3 day course of ciprofloxacin 400mg PO BID complete yesterday (day 1
   = [**3-15**])
   # N/V/loose stools. Resolved since stopped codeine (also had two loose
   BMs after feeling constipated all day, so may have been partly due to
   abdominal fullness); will continue to monitor.
   - Continue zofran, compazine prn
   - if patient spikes fever or if abdominal distension worsens, would
   obtain CT abd/pelvis with IV contrast.
   - C diff negative X1; will resend if continues with more loose stool
   # Htn: Continue home amlodipine, metoprolol and clonidine.
   .
   # GERD: GERD may be contributing to symptoms; Prilosec to 40mg PO BID
   per ENT recs.
   .
   # LE Edema: Continue home lasix. (LOS balance -1.2 L)
   .
   # FEN: No IVF, replete electrolytes, advance diet as tolerated;
   speech/swallow study today
   # Prophylaxis: Subcutaneous heparin
   # Access: peripheral X1 (not working well)
   # Communication: Patient
   # Code:  Full (discussed with patient)
   # Disposition: ICU for morning, possible call out to floor pending
   further improvement and no increased need for BIPAP